US07244843B2
To N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-(2-methyl-4-trifluoromethoxyphenyl)-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one (11 mg, 0.022 mmol) was added diethyl ether (2 mL) and saturated aqueous hydrochloric acid (1 mL). After 15 min of stirring, the reaction was concentrated, diluted with water and lyopholized to give (R)-1,3,4,10b-tetrahydro-9-(2-methyl-4-trifluoromethoxyphenyl)-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one hydrochloric acid salt (9.7 mg, 97%) as a white solid. MS (ESI) 431.3 (M−Cl).

reactant | N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-(2-methyl-4-trifluoromethoxyphenyl)-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one | 0.022 mmol, 11 mg | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C(C3=C(C=C(C=C23)C2=C(C=C(C=C2)OC(F)(F)F)C)C(F)(F)F)=O)CC1 | C25H24F6N2O4
reactant | hydrochloric acid | 1 mL | Cl | ClH
solvent | diethyl ether | 2 mL | C(C)OCC | C4H10O
product | (R)-1,3,4,10b-tetrahydro-9-(2-methyl-4-trifluoromethoxyphenyl)-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one hydrochloric acid salt | 9.7 mg, 97% | Cl.CC1=C(C=CC(=C1)OC(F)(F)F)C1=CC(=C2C(N3[C@H](C2=C1)CNCC3)=O)C(F)(F)F | InChI=1S/C20H16F6N2O2.ClH/c1-10-6-12(30-20(24,25)26)2-3-13(10)11-7-14-16-9-27-4-5-28(16)18(29)17(14)15(8-11)19(21,22)23;/h2-3,6-8,16,27H,4-5,9H2,1H3;1H/t16-;/m0./s1
